US06949579B2
0.60 cm3 of heptafluorobutyryl chloride is added to 1 g of 6-chloro-1H-indazole-3-amine in 10 cm3 of pyridine, after cooling the medium to about 6° C., the mixture is then allowed to return to room temperature over 19 hours and is evaporated to dryness under reduced pressure (2 kPa; 45° C.). The residue is taken up in 40 cm3 of ethyl acetate and 20 cm3 of water; the precipitate formed is filtered off on a sinter funnel and then rinsed with 2×10 cm3 of methylene chloride and purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.) to give 0.77 g of N-[6-chloro-1H-indazol-3-yl]-2,2,3,3,4,4,4-heptafluorobutanamide in cottony form.

reactant | heptafluorobutyryl chloride | 0.60 cm3 | FC(C(C(=O)Cl)(F)F)(C(F)(F)F)F | C4ClF7O
reactant | 6-chloro-1H-indazole-3-amine | 1 g | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
solvent | pyridine | 10 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[6-chloro-1H-indazol-3-yl]-2,2,3,3,4,4,4-heptafluorobutanamide | 0.77 g | ClC1=CC=C2C(=NNC2=C1)NC(C(C(C(F)(F)F)(F)F)(F)F)=O | C11H5ClF7N3O
